US07612114B2
6-{2-{[5-(2-Dimethylaminoethoxy)pyridin-2-ylmethyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[ethyl(5-hydroxypyridine-2-carbonyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (25 mg) and 2-chloro-N,N-dimethylacetamide (12 mg) following the synthetic method of Example 404 described below and purified by LC-MS, the title compound (24 mg) was obtained. ESI-Mass; 476 [M++H]

reactant | pivalic acid 6-{2-[ethyl(5-hydroxypyridine-2-carbonyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 25 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(=O)C1=NC=C(C=C1)O | C30H34N2O5
reactant | 2-chloro-N,N-dimethylacetamide | 12 mg | ClCC(=O)N(C)C | C4H8ClNO
product | 6-{2-{[5-(2-Dimethylaminoethoxy)pyridin-2-ylmethyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 24 mg | CN(CCOC=1C=CC(=NC1)CN(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O)CC)C | C29H37N3O3
